US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-(4-fluorophenyl)-4-methyl-2-oxotetrahydropyrimidine-1(2H)-carboxamide
To a solution of 1-(4-fluorophenyl)-6-methyltetrahydropyrimidin-2(1H)-one (240 mg, 1.1 mmol) in tetrahydrofuran (5 mL) was added bis(trichloromethyl) carbonate (170 mg, 0.57 mmol), and the mixture was stirred at 70° C. for 3.5 hr. The mixture was cooled to room temperature, a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (250 mg, 0.76 mmol) in tetrahydrofuran (8 mL) and N,N-diisopropylethylamine (300 mg, 2.3 mmol) were added to the mixture, and the mixture was stirred at room temperature for 1 hr. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the mixture, and the aqueous layer was extracted 3 times with ethyl acetate/tetrahydrofuran. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=50/50→100/0) to give the title compound (29 mg, 7%) as a white solid.

reactant | 1-(4-fluorophenyl)-6-methyltetrahydropyrimidin-2(1H)-one | 1.1 mmol, 240 mg | FC1=CC=C(C=C1)N1C(NCCC1C)=O | C11H13FN2O
reactant | bis(trichloromethyl) carbonate | 0.57 mmol, 170 mg | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.76 mmol, 250 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | N,N-diisopropylethylamine | 2.3 mmol, 300 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-(4-fluorophenyl)-4-methyl-2-oxotetrahydropyrimidine-1(2H)-carboxamide | 29 mg, 7% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)N2C(N(C(CC2)C)C2=CC=C(C=C2)F)=O)F)C1 | C29H26F2N6O4
